US05543406
Crude 17β-carbomethoxy-3β-triisopropylsilyloxy-6-azaandrost-5-ene (66 g, 0.135 mol)is dissolved in pyridine (500 mL), treated with di-t-butyldicarbonate (150 g, 0.69 mol) and allowed to stir overnight. The pyridine is removed by rotary evaporation and tetrabutylammonium fluoride (500 mL, 1M, 0.5 mol) in tetrahydrofuran (THF) added carefully and the reaction heated to reflux for 5 min. The THF is removed by rotary evaporation, the residue dissolved in ethyl acetate (500 mL), washed cautiously with water, saturated aqueous NaCl, dried with MgSO4 and concentrated. This material is dissolved in DMF (500 mL), is treated with pyridinium dichromate (153 g, 0.41 mol) and allowed to stir overnight. The reaction is poured into water (700 mL) and extracted with ethyl acetate (2×500 mL). The combined extracts are washed with water, 5% aqueous CuSO4, saturated aqueous NaCl, dried over MgSO4, concentrated and flash chromatographed (0-60%, diethyl ether/hexanes) to give 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one as an off-white foam; yield: 37.5 g (64%); FAB mass spec. MH+ 432.

reactant | 17β-carbomethoxy-3β-triisopropylsilyloxy-6-azaandrost-5-ene | 0.135 mol, 66 g | C(=O)(OC)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O[Si](C(C)C)(C(C)C)C(C)C | C29H51NO3Si
reactant | di-t-butyldicarbonate | 0.69 mol, 150 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrabutylammonium fluoride | 0.5 mol, 1M, 500 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | pyridinium dichromate | 0.41 mol, 153 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 700 mL | O | H2O
product | 17β-carbomethoxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one | C(=O)(OC)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C25H37NO5
